* source BPF
X_U1A         N00235 N00277 N00586 N00620 N00259 LM358
R_R_1         N00802 N00222  150 TC=0,0 
R_R_f         N00222 N00259  3000 TC=0,0 
R_R_b         N00277 N00259  20000 TC=0,0 
R_R_a         0 N00277  15000 TC=0,0 
R_R_2         0 N00235  300 TC=0,0 
C_C_2         N00222 N00235  4.7u  TC=0,0 
C_C_1         0 N00222  4.7u  TC=0,0 
V_V2         N00620 0 -10Vdc
V_V3         N00586 0 10Vdc
V_V4         N00802 0 DC 0Vdc AC 2Vac 
V_V6         N02436 0 10Vdc
R_R_b1         N02318 N02300  20000 TC=0,0 
R_R_a1         0 N02318  15000 TC=0,0 
R_R_3         N00259 N02258  150 TC=0,0 
R_R_4         0 N02278  300 TC=0,0 
C_C_3         N02258 N02278  4.7u  TC=0,0 
R_R_f1         N02258 N02300  3000 TC=0,0 
V_V5         N02452 0 -10Vdc
X_U1B         N02278 N02318 N02436 N02452 N02300 LM358
C_C_4         0 N02258  4.7u  TC=0,0 
